US06924374B2
4-(4-Chloro-3-trifluoromethyl-phenyl)-1-propyl-piperidine
Beginning with 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine and 1-propyliodide, the title compound was re-covered by the procedure described in Example 2. m.p. 218-220° C. (HCl), MS m/z (rel. intensity, 70 eV) 305 (M+, 4), 278 (35), 277 (13), 276 (bp), 70 (40).

reactant | 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine | ClC1=C(C=C(C=C1)C1CCNCC1)C(F)(F)F | C12H13ClF3N
reactant | 1-propyliodide | C(CC)I | C3H7I
product | 4-(4-Chloro-3-trifluoromethyl-phenyl)-1-propyl-piperidine | ClC1=C(C=C(C=C1)C1CCN(CC1)CCC)C(F)(F)F | C15H19ClF3N
